US05708008
5-(4-chlorophenyl)thio-3-(1-methylpiperidin-4-yl)-1H-indole
Using 0.4 gm (1.36 mMol) 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole and 0.78 gm (2.73 mMol) di(4-chlorophenyl)disulfide gave 0.39 gm (79.6%) of the title compound as a colorless solid.

reactant | 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole | 1.36 mMol, 0.4 gm | BrC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H17BrN2
reactant | di(4-chlorophenyl)disulfide | 2.73 mMol, 0.78 gm | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
product | 5-(4-chlorophenyl)thio-3-(1-methylpiperidin-4-yl)-1H-indole | 0.39 gm, 79.6% | ClC1=CC=C(C=C1)SC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H21ClN2S
